US06114532
4-[(5-(N-(2-dimethylamino-ethyl)-quinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-methyl]-benzamidine-dihydrochloride
Prepared analogously to Example 1e from 4-[(5-(N-(2-dimethylamino-ethyl)-quinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-methyl]-benzonitrile and hydrochloric acid/ammonium carbonate in ethanol.

reactant | 4-[(5-(N-(2-dimethylamino-ethyl)-quinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-methyl]-benzonitrile | CN(CCN(C1=CC2=C(N(C(=N2)CC2=CC=C(C#N)C=C2)C)C=C1)S(=O)(=O)C=1C=CC=C2C=CC=NC12)C | C29H28N6O2S
reactant | hydrochloric acid ammonium carbonate | Cl.C([O-])([O-])=O.[NH4+].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 4-[(5-(N-(2-dimethylamino-ethyl)-quinolin-8-yl-sulphonylamino)-1-methyl-1H-benzimidazol-2-yl)-methyl]-benzamidine-dihydrochloride | Cl.Cl.CN(CCN(C1=CC2=C(N(C(=N2)CC2=CC=C(C(=N)N)C=C2)C)C=C1)S(=O)(=O)C=1C=CC=C2C=CC=NC12)C | InChI=1S/C29H31N7O2S.2ClH/c1-34(2)16-17-36(39(37,38)26-8-4-6-21-7-5-15-32-28(21)26)23-13-14-25-24(19-23)33-27(35(25)3)18-20-9-11-22(12-10-20)29(30)31;;/h4-15,19H,16-18H2,1-3H3,(H3,30,31);2*1H
